US08703953B2
To a solution of 4-(4-chloro-2-fluorophenyl)nicotinaldehyde (3 g, 12.73 mmol) in a mixture of methanol (5 mL) and tetrahydrofuran (5 mL) cooled to 0° C. was added NaBH4 (0.722 g, 19.10 mmol) and the solution stirred for 30 min. The reaction was quenched by addition of water (10 mL). The solution was extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with water (1×15 mL) and brine (1×15 mL), dried with sodium sulfate and concentrated under reduced pressure to yield (4-(4-chloro-2-fluorophenyl)pyridin-3-yl)methanol that was used without further purification in the next step. LCMS (ESI) m/e 238 [(M+H)+, calcd for C12H10ClFNO 238.0].

reactant | 4-(4-chloro-2-fluorophenyl)nicotinaldehyde | 12.73 mmol, 3 g | ClC1=CC(=C(C=C1)C1=CC=NC=C1C=O)F | C12H7ClFNO
reactant | NaBH4 | 19.10 mmol, 0.722 g | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4-(4-chloro-2-fluorophenyl)pyridin-3-yl)methanol | ClC1=CC(=C(C=C1)C1=C(C=NC=C1)CO)F | C12H9ClFNO
